US05300509
A mixture of 4,6-diamino-2-methylthio-5-nitrosopyrimidine (10 g, 5.4 mM), 4-methoxyphenethylamine (7.92 ml, 5.4 mM) and water (180 ml) was heated to reflux for one hour. After cooling the red solid was separated by filtration, washed with water, and dried. There was thus obtained 4,6-diamino-2-[2-(4-methoxyphenyl)ethyl]amino-5-nitrosopyrimidine (13.4 g, 84% yield). NMR: DMSO-d6 ; 2.7-2.85(m,2H, CH2 --CH2), 3.4-3.6(m, 2H, CH2 --NH), 3.7 (s, 3H, OCH3), 6.75-6.8(m,2H, aromatic-H), 7.05-7.25 (m, 2H, aromatic-H), 7.4-10.5 (m, 5H, NH2 ×2, NH), m/e [M+H[+ 289.

reactant | 4,6-diamino-2-methylthio-5-nitrosopyrimidine | 5.4 mM, 10 g | NC1=NC(=NC(=C1N=O)N)SC | C5H7N5OS
reactant | 4-methoxyphenethylamine | 5.4 mM, 7.92 ml | COC1=CC=C(CCN)C=C1 | C9H13NO
solvent | water | 180 ml | O | H2O
product | 4,6-diamino-2-[2-(4-methoxyphenyl)ethyl]amino-5-nitrosopyrimidine | 13.4 g, 84% yield | NC1=NC(=NC(=C1N=O)N)NCCC1=CC=C(C=C1)OC | C13H16N6O2
